US04595757
B. 3-(Methylthio)Thieno[3,4-d]Isothiazole 1,1-Dioxide
To a mixture of 0.9 g (0.0044 mole) of thieno[3,4-d]isothiazol-3(2H)-thione 1,1-dioxide in 4 ml of ethanol is added a solution of 0.35 g (0.0044 mole) of 50% sodium hydroxide in 3 ml of water. To this thick mixture is added 0.62 g (0.0044 mole) of iodomethane. The mixture is heated under reflux for 5 minutes, and then filtered to give 0.35 g of product. On cooling, a second crop of 0.1 g of material is obtained. A small amount of the first crop is recrystallized from ethanol to afford an analytical sample, m.p. 184°-6° C.

reactant | thieno[3,4-d]isothiazol-3(2H)-thione 1,1-dioxide | 0.0044 mole, 0.9 g | S1(NC(C=2C1=CSC2)=S)(=O)=O | C5H3NO2S3
reactant | sodium hydroxide | 0.0044 mole, 0.35 g | [OH-].[Na+]
reactant | iodomethane | 0.0044 mole, 0.62 g | IC | CH3I
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 3-(Methylthio)Thieno[3,4-d]Isothiazole 1,1-Dioxide | 0.35 g | CSC1=NS(C=2C1=CSC2)(=O)=O | C6H5NO2S3
